US07312330B2
B. 2-Benzyl-5-chloro-1,2,3,4-tetrahydroisoquinolin-7-amine
N,N-Dimethylaniline (1.4 g, 11.4 mmol) and phosphorus oxychloride (14 g, 91.2 mmol) were added to a solution of 2-amino-7-benzyl-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4(4aH)-one (2.9 g, 11.4 mmol) in 1,2-dichloroethane (23 mL, anhydrous) and were stirred in a preheated oil bath at 90° C. for 45 min. The reaction mixture was poured into ice, neutralized by solid sodium carbonate, extracted by ethyl acetate, and the dark brown semi solid was dissolved in methanol. The combined ethyl acetate and methanol solution was dried over sodium sulfate. Solvent was removed in vacuo and product was obtained as a light brown solid (2.6 g).

reactant | N,N-Dimethylaniline | 11.4 mmol, 1.4 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorus oxychloride | 91.2 mmol, 14 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-amino-7-benzyl-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4(4aH)-one | 11.4 mmol, 2.9 g | NC1=NC(C2C(=N1)CN(CC2)CC2=CC=CC=C2)=O | C14H16N4O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dichloroethane | 23 mL | ClCCCl | C2H4Cl2
product | 2-Benzyl-5-chloro-1,2,3,4-tetrahydroisoquinolin-7-amine | 2.6 g | C(C1=CC=CC=C1)N1CC2=CC(=CC(=C2CC1)Cl)N | C16H17ClN2
